US04727067
A solution of 23 g of crude 1-[N-[2-(3-carbamoyl-4-hydroxyphenoxy)ethyl]-benzylamino]-3-[4-(2-hydroxyethoxy)phenoxy]-2-propanol in 500 ml of methanol is hydrogenated, under normal conditions, with the addition of 2 g of 5% palladium on carbon catalyst, until hydrogen absorption has ceased. The catalyst is then removed by filtration and the filtrate is concentrated by evaporation under reduced pressure. The crystalline residue is stirred in a mixture of 50 ml of methanol and ether. The crystals so obtained are isolated by filtration and dried in vacuo, affording 1-[2-(3-carbamoyl-4-hydroxyphenoxy)ethylamino]-3-[4-(2-hydroxyethoxy)phenoxy]-2-propanol with a melting point of 150°-151° C. Reaction with the equivalent amount of hydrogen chloride, as solution in methanol, affords the hydrochloride with a melting point of 205°-206° C.

reactant | 1-[N-[2-(3-carbamoyl-4-hydroxyphenoxy)ethyl]-benzylamino]-3-[4-(2-hydroxyethoxy)phenoxy]-2-propanol | 23 g | C(N)(=O)C=1C=C(OCCN(CC(COC2=CC=C(C=C2)OCCO)O)CC2=CC=CC=C2)C=CC1O | C27H32N2O7
reactant | hydrogen | [H][H] | H2
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium on carbon | 2 g | [Pd] | Pd
product | 1-[2-(3-carbamoyl-4-hydroxyphenoxy)ethylamino]-3-[4-(2-hydroxyethoxy)phenoxy]-2-propanol | C(N)(=O)C=1C=C(OCCNCC(COC2=CC=C(C=C2)OCCO)O)C=CC1O | C20H26N2O7
